US08614327B2
6-nitro-5-(trifluoromethyl)-1H-indole (50 mg, 0.22 mmol) was dissolved in DMF (2 mL) and treated with sodium hydride (35 mg, 0.87 mmol) to form a dark red opaque solution. The solution was stirred for 20 minutes and then added dropwise to a solution of 2-bromoethyl methyl ether (121 mg, 82 μL, 0.87 mmol) in 1 mL DMF. The reaction mixture was heated at 50° C. for 30 minutes. The reaction mixture was diluted with ethyl acetate (50 mL) and washed with 50% saturated NaHCO3 (2×10 mL) and brine. The organic layer was dried over Na2SO4, filtered and dried to obtain 1-(2-methoxyethyl)-6-nitro-5-(trifluoromethyl)-1H-indole, which was used in the next step without further purification.

reactant | 6-nitro-5-(trifluoromethyl)-1H-indole | 0.22 mmol, 50 mg | [N+](=O)([O-])C1=C(C=C2C=CNC2=C1)C(F)(F)F | C9H5F3N2O2
reactant | sodium hydride | 0.87 mmol, 35 mg | [H-].[Na+]
reactant | 2-bromoethyl methyl ether | 0.87 mmol, 82 μL, 121 mg | COCCBr | C3H7BrO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 1-(2-methoxyethyl)-6-nitro-5-(trifluoromethyl)-1H-indole | quantitative yield | COCCN1C=CC2=CC(=C(C=C12)[N+](=O)[O-])C(F)(F)F | C12H11F3N2O3
